US06281363B1
A solution of 0.415 g of (E)-N-(1,2,3,5,6,7,8,8a(RS)-octahydro-1,3-dioxoimidazo[1,5-a]pyrazin-2-yl)-2(R)-[1(S)-(carboxy)-4-phenyl-3-butenyl]-4-methylvaleramide in 0.25 ml of dimethylformamide was treated with 0.461 g of O-benzylhydroxylamine and 0.173 g of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride and stirred at room temperature for 4 hours. Evaporation gave a residue which was dissolved in ethyl acetate and washed with 5% aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride. Drying over anhydrous magnesium sulphate and evaporation gave a residue which was triturated with diethyl ether to give 0.160 g of (E)-N-(1,2,3,5,6,7,8,8a(RS)-octahydro-1,3-dioxoimidazo[1,5-a]pyrazin-2-yl)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide in the form of a white solid.

reactant | (E)-N-(1,2,3,5,6,7,8,8a(RS)-octahydro-1,3-dioxoimidazo[1,5-a]pyrazin-2-yl)-2(R)-[1(S)-(carboxy)-4-phenyl-3-butenyl]-4-methylvaleramide | 0.415 g | O=C1N(C(N2C1CNCC2)=O)NC([C@H](CC(C)C)[C@H](C\C=C\C2=CC=CC=C2)C(=O)O)=O | C23H30N4O5
reactant | O-benzylhydroxylamine | 0.461 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.173 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N-(1,2,3,5,6,7,8,8a(RS)-octahydro-1,3-dioxoimidazo[1,5-a]pyrazin-2-yl)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide | 0.160 g | O=C1N(C(N2C1CNCC2)=O)NC([C@H](CC(C)C)[C@H](C\C=C\C2=CC=CC=C2)C(NOCC2=CC=CC=C2)=O)=O | C30H37N5O5
